US06603005B2
50 cm3 of a solution of hydrogen chloride in dioxane at a concentration of 4M were added cautiously to a solution of 8.7 g of ethyl 4-[3-(3-fluoroquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine-4-carboxylate in 150 cm3 of anhydrous dioxane, and the temperature was maintained below 30° C. during the addition. After stirring for 18 hours in the region of 20° C., the suspension was diluted with 250 cm3 of diethyl ether, filtered and washed with 5 times 50 cm3 of diethyl ether, and the solid was dried in a desiccator under reduced pressure (2 kPa) and at a temperature in the region of 20° C. The solid was taken up in 50 cm3 of water and aqueous 5N sodium hydroxide solution was added so that the pH was at about 10, and the mixture was then extracted with 5 times 100 cm3 of diethyl ether. The organic phases were combined, dried over magnesium sulfate, taken up with plant charcoal (3S), filtered and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 50° C. 4.7 g of ethyl 4-[3-(3-fluoroquinolin-4-yl)propyl]piperidine-4-carboxylate were obtained in the form of a viscous orange-colored oil.

reactant | hydrogen chloride | Cl | ClH
reactant | ethyl 4-[3-(3-fluoroquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine-4-carboxylate | 8.7 g | FC=1C=NC2=CC=CC=C2C1CCCC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C25H33FN2O4
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 150 cm3 | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 250 cm3 | C(C)OCC | C4H10O
product | ethyl 4-[3-(3-fluoroquinolin-4-yl)propyl]piperidine-4-carboxylate | 4.7 g | FC=1C=NC2=CC=CC=C2C1CCCC1(CCNCC1)C(=O)OCC | C20H25FN2O2
